US09376442B2
N-(cis-4-Acetamidocyclohexyl)-4-[2-(cyclopropylmethoxy)-5-fluoro-4-methoxyphenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide
Starting from N-(cis-4-aminocyclohexyl)-4-[2-(cyclopropylmethoxy)-5-fluoro-4-methoxyphenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride (example D.f46) and commercially available acetyl chloride the title compound is obtained as colorless solid.

reactant | N-(cis-4-aminocyclohexyl)-4-[2-(cyclopropylmethoxy)-5-fluoro-4-methoxyphenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride | Cl.N[C@H]1CC[C@H](CC1)NC(=O)C1=C(NC2=C1N=CN=C2C2=C(C=C(C(=C2)F)OC)OCC2CC2)C
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-(cis-4-Acetamidocyclohexyl)-4-[2-(cyclopropylmethoxy)-5-fluoro-4-methoxyphenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide | C(C)(=O)N[C@H]1CC[C@H](CC1)NC(=O)C1=C(NC2=C1N=CN=C2C2=C(C=C(C(=C2)F)OC)OCC2CC2)C | C27H32FN5O4
